US07776897B2
Benzyltriphenylphosphonium bromide (1.15 g) was suspended in THF (30 ml) and, under ice cooling, n-butyllithium (1.60M hexane solution, 1.50 ml) was added thereto, followed by stirring at room temperature for 30 minutes. A THF (20 ml) solution of 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanal (633 mg) was added dropwise to the reaction solution and the whole was stirred under heating and refluxing for 20 hours. The reaction mixture was quenched with water (50 ml) and then extracted with ethyl acetate (50 ml×2). The organic layer washed with a 1M aqueous hydrochloric acid solution (30 ml), a saturated aqueous sodium bicarbonate solution, and a brine (30 ml). The organic layer was dried and then concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (methanol:chloroform=2:98) and preparative thin layer chromatography (ethyl acetate:hexane=3:1) to obtain 86 mg of 3-(2-chlorophenyl)-5-[(2E)-1,1-dimethyl-3-phenylprop-2-en-1-yl]-4-methyl-1,2,4-triazol (white solid).

reactant | Benzyltriphenylphosphonium bromide | 1.15 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 1.60M, 1.50 ml | C(CCC)[Li]
reactant | 2-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]-2-methylpropanal | 633 mg | ClC1=C(C=CC=C1)C=1N(C(=NN1)C(C=O)(C)C)C | C13H14ClN3O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(2-chlorophenyl)-5-[(2E)-1,1-dimethyl-3-phenylprop-2-en-1-yl]-4-methyl-1,2,4-triazol | 86 mg | ClC1=C(C=CC=C1)C1=NN=C(N1C)C(\C=C\C1=CC=CC=C1)(C)C | C20H20ClN3
